US06787536B2
5-(4-Fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride
4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester (0.99 g) was dissolved in a mixture of methanol (30 ml) and dichloromethane (10 ml) and treated dropwise with a 1.0 M solution of HCl in diethyl ether (60 ml). After stirring for 24 h, the resultant suspension was filtered and the precipitate was washed with 1:1 diethyl ether/methanol, followed by diethyl ether and dried under vacuum, to furnish the title compound as an off white solid (0.86 g, 94%).

reactant | 4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.99 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F | C19H23FN4O2
reactant | HCl | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 5-(4-Fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCNCC1 | InChI=1S/C14H15FN4.2ClH/c15-13-3-1-11(2-4-13)12-9-17-14(18-10-12)19-7-5-16-6-8-19;;/h1-4,9-10,16H,5-8H2;2*1H
